US06797718B2
1-[2,6,7-Trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]eth-2-yl Acetate
1-[(3-Amino-5,6-dimethyl-2-phenoxypyridin-4-yl)amino]eth-2-yl acetate (10.5 g, 33.29 mmol), toluene (100 mL), pyridine hydrochloride (0.077 g, 0.6659 mmol), and triethyl orthoacetate (9.1 mL, 49.94 mmol) were combined with stirring and the resulting mixture was heated to a gentle reflux (about 95° C.) for 1.5 hours. The reaction was complete. The resulting reaction mixture was concentrated under reduced pressure to white solids, which were dissolved in ethyl acetate. The ethyl acetate solution was washed with water (3×) and brine (2×), dried with magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting solid was triturated with diethyl ether, filtered off, and dried at 60° C. overnight to provide 11 g of pure product, which was carried on to the next step.

reactant | 1-[(3-Amino-5,6-dimethyl-2-phenoxypyridin-4-yl)amino]eth-2-yl acetate | 33.29 mmol, 10.5 g | C(C)(=O)OCCNC1=C(C(=NC(=C1C)C)OC1=CC=CC=C1)N | C17H21N3O3
reactant | triethyl orthoacetate | 49.94 mmol, 9.1 mL | C(C)(OCC)(OCC)OCC | C8H18O3
catalyst | pyridine hydrochloride | 0.6659 mmol, 0.077 g | Cl.N1=CC=CC=C1
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[2,6,7-Trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]eth-2-yl Acetate | 11 g | C(C)(=O)OCCN1C(=NC=2C(=NC(=C(C21)C)C)OC2=CC=CC=C2)C | C19H21N3O3
